US05591752
Methyl 4-cyano-o-toluate
0.5 g of cuprous cyanide was added to 1 g of methyl 4-bromo-o-toluate obtained in Reference example 18 dissolved in 0.7 ml of dimethylformamide and the mixture was refluxed under heating for 6 hours. Then, to the reaction mixture were added 2.6 ml of water, 0.5 ml of conc. hydrochloric acid and 1.75 g of ferric chloride and the mixture was stirred at 60° to 70° C. for 30 minutes. After the reaction mixture was extracted with ethyl acetate, the organic layer was washed with a saturated saline solution and dried over anhydrous sodium sulfate. The solvent was removed from the solution to obtain 0.76 g of the title compound.

reactant | methyl 4-bromo-o-toluate | 1 g | BrC=1C=C(C(=CC1)C)C(=O)OC | C9H9BrO2
reactant | water | 2.6 ml | O | H2O
reactant | hydrochloric acid | 0.5 ml | Cl | ClH
reactant | dimethylformamide | 0.7 ml | CN(C=O)C | C3H7NO
product | Methyl 4-cyano-o-toluate | 0.76 g | C(#N)C=1C=C(C(=CC1)C)C(=O)OC | C10H9NO2
